US08314238B2
Step 1: Synthesis of 3-(4-trifluoromethyl-phenyl)-propionic acid (compound 1)
A solution of 4-trifluoromethylcinnamic acid (commercial available) in methanol is hydrogenated with Pd/C (5 wt %) at 2 bar until 4-trifluoromethylcinnamic acid has reacted completely. After removal of the catalyst by filtration the 4-trifluoromethylhydrocinnamic acid is further reacted in step 2 to compound 2.

reactant | 4-trifluoromethylcinnamic acid | FC(C1=CC=C(C=CC(=O)O)C=C1)(F)F | C10H7F3O2
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-(4-trifluoromethyl-phenyl)-propionic acid | FC(C1=CC=C(C=C1)CCC(=O)O)(F)F | C10H9F3O2
